US07691896B2
A solution of tert-butoxycarbonylamino-(dimethoxy-phosphoryl)-acetic acid methyl ester (20.0 g, 67 mmol, 1 equiv), 2,2,6-trimethyl-[1,3]dioxin-4-one (43.96 ml, 47.8 g, 336 mmol, 5.0 equiv), and 2,6-lutidine (11.71 ml, 10.77 g, 101 mmol, 1.5 equiv) in toluene (200 ml) was heated at reflux for 16 h. The reaction mixture was allowed to cool to 23° C. and was concentrated. The residue was purified by flash column chromatography (5% ethyl acetate-dichloromethane initially, grading to 8% ethyl acetate-dichloromethane) to give 3-methyl-5-oxo-2,5-dihydro-pyrrole-1,2-dicarboxylic acid 1-tert-butyl ester 2-methyl ester (14.74 g, 86%) as a yellow oil.

reactant | tert-butoxycarbonylamino-(dimethoxy-phosphoryl)-acetic acid methyl ester | 67 mmol, 20.0 g, 1 equiv | COC(C(P(=O)(OC)OC)NC(=O)OC(C)(C)C)=O | C10H20NO7P
reactant | 2,2,6-trimethyl-[1,3]dioxin-4-one | 336 mmol, 43.96 ml, 47.8 g, 5.0 equiv | CC1(OC(=CC(O1)=O)C)C | C7H10O3
reactant | 2,6-lutidine | 101 mmol, 11.71 ml, 10.77 g, 1.5 equiv | N1=C(C=CC=C1C)C | C7H9N
solvent | toluene | 200 ml | C1(=CC=CC=C1)C | C7H8
product | 3-methyl-5-oxo-2,5-dihydro-pyrrole-1,2-dicarboxylic acid 1-tert-butyl ester 2-methyl ester | 14.74 g, 86% | COC(=O)C1N(C(C=C1C)=O)C(=O)OC(C)(C)C | C12H17NO5
